US04734419
A mixture of 2-aminobenzamide (100 g), ethyl bromoacetate (97.74 ml) and potassium carbonate (253.78 g) in N,N-dimethylformamide (400 ml) was stirred at 60° C. for 4.5 hours. After cooling, the reaction mixture was poured into ice-water (2 l) and the resulting crystals were collected by filtration. Thus obtained product was purified by recrystallization from ethanol to give ethyl N-(2-carbamoylphenyl)aminoacetate (123.93 g).

reactant | 2-aminobenzamide | 100 g | NC1=C(C(=O)N)C=CC=C1 | C7H8N2O
reactant | ethyl bromoacetate | 97.74 ml | BrCC(=O)OCC | C4H7BrO2
reactant | potassium carbonate | 253.78 g | C([O-])([O-])=O.[K+].[K+]
solvent | N,N-dimethylformamide | 400 ml | CN(C=O)C | C3H7NO
product | ethyl N-(2-carbamoylphenyl)aminoacetate | 123.93 g | C(N)(=O)C1=C(C=CC=C1)NCC(=O)OCC | C11H14N2O3
